US04465768
6 g of p-iodoaniline was dispersed in a solution comprising 25 cc of water and 7.5 cc of 36% hydrochloric acid and cooled with ice. 2.1 g of sodium nitrite was dissolved in 13 ml of water and the resulting solution was added dropwise slowly to the dispersion to effect the diazotization reaction. A solution of 2.5 g of sodium azide in 18 ml of water was added dropwise thereto and, after stirring for one hour, the mixture was subjected to extraction with benzene. After the dehydration with sodium sulfate, benzene was evaporated to obtain p-azidoiodobenzene.

reactant | p-iodoaniline | 6 g | IC1=CC=C(N)C=C1 | C6H6IN
reactant | hydrochloric acid | 7.5 cc | Cl | ClH
reactant | sodium nitrite | 2.1 g | N(=O)[O-].[Na+]
reactant | sodium azide | 2.5 g | [N-]=[N+]=[N-].[Na+]
solvent | water | 13 ml | O | H2O
solvent | water | 18 ml | O | H2O
solvent | water | 25 cc | O | H2O
product | p-azidoiodobenzene | N(=[N+]=[N-])C1=CC=C(C=C1)I | C6H4IN3
